US06720351B2
In a preferred embodiment, (RS)-N-benzyl-N-methyl-2-phenylglycinamide is treated with di(o-toluoyl)-L-tartaric acid in methanol at 20° C. The precipitated salt is filtered and washed with methanol, then dried providing (S)-N-benzyl-N-methyl-2-phenylglycinamide di(o-toluoyl)-L-tartrate with 92.7% d.e. (chiral HPLC). This material is reslurried in hot methanol, filtered, washed and dried to providing (S)-N-benzyl-N-methyl-2-phenylglycinamide di(o-toluoyl)-L-tartrate with 99% d.e. (37% overall yield).

reactant | (RS)-N-benzyl-N-methyl-2-phenylglycinamide | C(C1=CC=CC=C1)N(C(C(N)C1=CC=CC=C1)=O)C | C16H18N2O
reactant | di(o-toluoyl)-L-tartaric acid | C=1(C(=CC=CC1)C(=O)[C@]([C@](C(=O)O)(O)C(=O)C=1C(=CC=CC1)C)(O)C(=O)O)C | C20H18O8
solvent | methanol | CO | CH4O
product | (S)-N-benzyl-N-methyl-2-phenylglycinamide di(o-toluoyl)-L-tartrate | C=1(C(=CC=CC1)C(=O)[C@]([C@](C(=O)O)(O)C(=O)C=1C(=CC=CC1)C)(O)C(=O)O)C.C(C1=CC=CC=C1)N(C([C@@H](N)C1=CC=CC=C1)=O)C | InChI=1S/C20H18O8.C16H18N2O/c1-11-7-3-5-9-13(11)15(21)19(27,17(23)24)20(28,18(25)26)16(22)14-10-6-4-8-12(14)2;1-18(12-13-8-4-2-5-9-13)16(19)15(17)14-10-6-3-7-11-14/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);2-11,15H,12,17H2,1H3/t19-,20-;15-/m00/s1
